US05130313
A solution of 1H,3H-naphtho[1,8-cd]-1,2,6-thiadiazine 2,2-dioxide (8.8 g) in dry N,N-dimethylformamide (20 cc) is added dropwise to a suspension of sodium hydride (1.2 g, 80% suspension in oil) in N,N-dimethylformamide (50 cc). After 15 minutes' stirring, a solution of 1-(3-chloropropyl)-4-phenyl-1,2,3,6-tetrahydropyridine (9.36 g) in N,N-dimethylformamide (50 cc) is added. The reaction mixture is heated to 100° C. for 1 hour and is then cooled and poured into a mixture of water (500 cc) and ethyl acetate (300 cc). The organic phase is washed with water, is dried over magnesium sulphate and is concentrated to dryness under reduced pressure (2.7 kPa). The residue is redissolved in N,N-dimethylformamide (40 cc) and the solution is diluted with ethanol (300 cc). The precipitate is filtered off, washed with ethanol and dried and then taken up in a 0.1 N aqueous sodium hydroxide solution (200 cc) in which it partially dissolves. The mixture is filtered. The insoluble material is filtered off, washed with water and dried. After recrystallization from ethyl acetate (60 cc), 1,3-bis[3-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)propyl]-1H,3H-naphtho[1,8-cd]-1,2,6-thiadiazine 2,2-dioxide (2.38 g) is obtained, melting at 140° C. The filtrate obtained above is acidified to pH 4 with 1 N hydrochloric acid. The precipitate is redissolved in N,N-dimethylformamide (30 cc) at 100° C., the hot solution is filtered and is then diluted with ethanol (150 cc). The precipitate is filtered off, washed with ethanol (3×50 cc) and dried. 1-[3-(4-Phenyl-1,2,3,6-tetrahydro-1-pyridyl)propyl]-1H,3H-naphtho[1,8-cd]-1,2,6-thiadiazine 2,2-dioxide (0.95 g) is obtained, melting at 240° C.

reactant | 1H,3H-naphtho[1,8-cd]-1,2,6-thiadiazine 2,2-dioxide | 8.8 g | N1C=2C3=C(NS1(=O)=O)C=CC=C3C=CC2 | C10H8N2O2S
reactant | sodium hydride | 1.2 g | [H-].[Na+]
reactant | 1-(3-chloropropyl)-4-phenyl-1,2,3,6-tetrahydropyridine | 9.36 g | ClCCCN1CCC(=CC1)C1=CC=CC=C1 | C14H18ClN
reactant | water | 500 cc | O | H2O
solvent | N,N-dimethylformamide | 20 cc | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 cc | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 cc | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 300 cc | C(C)(=O)OCC | C4H8O2
product | 1,3-bis[3-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)propyl]-1H,3H-naphtho[1,8-cd]-1,2,6-thiadiazine 2,2-dioxide | 2.38 g | C1(=CC=CC=C1)C=1CCN(CC1)CCCN1C=2C3=C(N(S1(=O)=O)CCCN1CCC(=CC1)C1=CC=CC=C1)C=CC=C3C=CC2 | C38H42N4O2S
